US08748624B2
STEP C: 3-(5-(3-chloro-5-((4′-chloro-[1,1′-biphenyl]-4-yl)carbamoyl)phenyl)picolinamido)propanoic acid
A 1M aqueous solution of NaOH (2.0 mL, 2.0 mmol) was added to a THF (1 mL) and MeOH (5 mL) solution of ethyl 3-(5-(3-chloro-5-((4′-chloro-[1,1′-biphenyl]-4-yl)carbamoyl)phenyl)picolinamido)propanoate (40 mg, 0.07 mmol) and the resulting mixture was stirred at room temperature. After 16 h the mixture was acidified with 2 M HCl and the aqueous phase was extracted with EtOAc. The combined organics were washed with water, dried (Na2SO4), and concentrated to yield the title compound.

reactant | NaOH | 2.0 mmol, 2.0 mL | [OH-].[Na+]
reactant | THF | 1 mL | C1CCOC1 | C4H8O
reactant | ethyl 3-(5-(3-chloro-5-((4′-chloro-[1,1′-biphenyl]-4-yl)carbamoyl)phenyl)picolinamido)propanoate | 0.07 mmol, 40 mg | ClC=1C=C(C=C(C1)C(NC1=CC=C(C=C1)C1=CC=C(C=C1)Cl)=O)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C30H25Cl2N3O4
reactant | HCl | 2 M | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
product | 3-(5-(3-chloro-5-((4′-chloro-[1,1′-biphenyl]-4-yl)carbamoyl)phenyl)picolinamido)propanoic acid | ClC=1C=C(C=C(C1)C(NC1=CC=C(C=C1)C1=CC=C(C=C1)Cl)=O)C=1C=CC(=NC1)C(=O)NCCC(=O)O | C28H21Cl2N3O4
